US04963448
In 2 ml of benzene, 0.4 g of 4-hexyl-4'-hydroxyazobenzene and a catalytic amount of trimethylbenzylammonium hydroxide were dissolved. To the resultant solution, 8 ml of acrylonitrile was slowly added. The resultant mixture was heated for 22 hours and then subjected to vacuum distillation for expulsion of the solvent. The residue of the distillation was extracted with benzene. Then, it was purified by silica gel column chromatography, to obtain 0.25 g of 2-[4-(4-hexylphenylazo)phenoxy]propanenitrile. This compound was converted to a corresponding carboxylic acid by hydrolysis with acetic acid containing hydrochloric acid. The carboxylic acid was converted into an acid chloride with thionyl chloride. The aminated quartz plates were treated with the acid chloride in the same manner as in Example 18. The absorption spectrum of the quartz plates indicated that the plates had azobenzene bonded thereto. A sandwich cell was produced by interposing the same mixed such a manner that the direction of rubbing perpendicularly intersected. When this cell was exposed alternately to an ultraviolet light and a visible light, it showed a reversible change in transmittance, indicating a change in the arrangement of liquid crystals between the homeotropic mode and the twisted mode.

reactant | 4-hexyl-4'-hydroxyazobenzene | 0.4 g | C(CCCCC)C1=CC=C(C=C1)N=NC1=CC=C(C=C1)O | C18H22N2O
reactant | trimethylbenzylammonium hydroxide | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | acrylonitrile | 8 ml | C(C=C)#N | C3H3N
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 2-[4-(4-hexylphenylazo)phenoxy]propanenitrile | 0.25 g | C(CCCCC)C1=CC=C(C=C1)N=NC1=CC=C(OC(C#N)C)C=C1 | C21H25N3O
